US08466114B2
To a stirred solution of 7-bromo-1,2,3,4-tetrahydroquinoline (7.0 g, 33.0 mmol) in DMF (50 mL) was added potassium carbonate (13.6 g, 99.0 mmol), and benzyl bromide (4.33 mL, 36.3 mmol), and the mixture was heated to 60° C. for 12 h, then cooled to room temperature and quenched by the addition of ice-cold water (150 mL). The resulting mixture was extracted with ethyl acetate (3×50 mL), and the organic layers were combined and washed with water (50 mL) and brine (50 mL), then dried over sodium sulfate, concentrated and purified by silica gel column chromatography to furnish 1-benzyl-7-bromo-1,2,3,4-tetrahydro-quinoline (7.1 g).

reactant | 7-bromo-1,2,3,4-tetrahydroquinoline | 33.0 mmol, 7.0 g | BrC1=CC=C2CCCNC2=C1 | C9H10BrN
reactant | potassium carbonate | 99.0 mmol, 13.6 g | C([O-])([O-])=O.[K+].[K+]
reactant | benzyl bromide | 36.3 mmol, 4.33 mL | C(C1=CC=CC=C1)Br | C7H7Br
solvent | DMF | 50 mL | CN(C)C=O | C3H7NO
product | 1-benzyl-7-bromo-1,2,3,4-tetrahydro-quinoline | 7.1 g | C(C1=CC=CC=C1)N1CCCC2=CC=C(C=C12)Br | C16H16BrN
